US07989444B2
2-ethyl-10-methyl-7-(3-{[4-methyl-5-(2-methyl-5-quinolinyl)-4H-1,2,4-triazol-3-yl]thio}propyl)-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine hydrochloride
The title compound was prepared in analogy to General Procedure 1 from 2-ethyl-10-methyl-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine (85 mg) and 5-{5-[(3-chloropropyl)thio]-4-methyl-4H-1,2,4-triazol-3-yl}-2-methylquinoline (147 mg) and was obtained as a colourless slightly hygroscopic solid (150 mg).

reactant | 2-ethyl-10-methyl-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine | 85 mg | C(C)C=1OC2=C(C3=C(CCNCC3)C=C2N1)C | C14H18N2O
reactant | 5-{5-[(3-chloropropyl)thio]-4-methyl-4H-1,2,4-triazol-3-yl}-2-methylquinoline | 147 mg | ClCCCSC=1N(C(=NN1)C1=C2C=CC(=NC2=CC=C1)C)C | C16H17ClN4S
product | 2-ethyl-10-methyl-7-(3-{[4-methyl-5-(2-methyl-5-quinolinyl)-4H-1,2,4-triazol-3-yl]thio}propyl)-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine hydrochloride | Cl.C(C)C=1OC2=C(C3=C(CCN(CC3)CCCSC3=NN=C(N3C)C3=C4C=CC(=NC4=CC=C3)C)C=C2N1)C | InChI=1S/C30H34N6OS.ClH/c1-5-27-32-26-18-21-12-15-36(16-13-22(21)20(3)28(26)37-27)14-7-17-38-30-34-33-29(35(30)4)24-8-6-9-25-23(24)11-10-19(2)31-25;/h6,8-11,18H,5,7,12-17H2,1-4H3;1H
